US04665206
5,6-Dimethoxy-benzo[b]thiophene-2-carboxamide (65 g) was suspended in pyridine (325 ml). The solution was cooled to 0° C. and treated dropwise with trifluoro acetic anhydride (185 ml) whilst maintaining the internal reaction temperature below 10° C. The mixture was then stirred at room temperature for 30 min. then cooled and treated dropwise with water (170 ml) whilst maintaining the internal temperature below 30° C. The reaction mixture was diluted with more water (800 ml), stirred and the brown solid was filtered and dried under vacuum over calcium chloride at 60° C. Recrystallisation from acetone/ether afforded 5,6-dimethoxy-benzo[b]thiophene-2-carbonitrile as a white solid (47 g), m.p. 125° C.

reactant | 5,6-Dimethoxy-benzo[b]thiophene-2-carboxamide | 65 g | COC1=CC2=C(SC(=C2)C(=O)N)C=C1OC | C11H11NO3S
reactant | trifluoro acetic anhydride | 185 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 325 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 800 ml | O | H2O
solvent | water | 170 ml | O | H2O
product | 5,6-dimethoxy-benzo[b]thiophene-2-carbonitrile | 47 g | COC1=CC2=C(SC(=C2)C#N)C=C1OC | C11H9NO2S
